* OVERALL BEST CANDIDATE: 00_Phase_2_5V_to_24V_High_Current_Boost_g4_cand3_b8
* FITNESS SCORE: 0.6522
*
* Generated: 2026-06-08T05:01:49
* Constraint: Phase 2: 5V to 24V High Current (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 24
*   efficiency_target = 0.88
*   power_in = 120
* Candidate: 12 of 12
* Grouped name: g4_cand3
*
* 5V to 24V Interleaved 2-Phase Boost, 120W
Vin in 0 5
L1 in sw1 22u
L2 in sw2 22u
M1 sw1 gate1 0 0 NMOS W=1 L=1
M2 sw2 gate2 0 0 NMOS W=1 L=1
D1 sw1 out DIODE
D2 sw2 out DIODE
C1 out 0 100u
Rload out 0 4.8
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 5.8u 10u)
Vgate2 gate2 0 PULSE(0 12 5u 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
